US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (1.0 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.262 g), stirred for 15 minutes and treated with chloromethoxybenzene (1.1 g). The mixture was heated at 60° C. for 1.5 hours and worked up as in Example 20. The material was crystallized from diethyl ether-hexane to provide 1 g of alpha-oxo-4-[[(phenoxy)methyl]oxy]benzeneacetic acid methyl ester, mp 52°-54° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 1.0 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.262 g | [H-].[Na+]
reactant | chloromethoxybenzene | 1.1 g | ClCOC1=CC=CC=C1 | C7H7ClO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | alpha-oxo-4-[[(phenoxy)methyl]oxy]benzeneacetic acid methyl ester | 1 g | COC(C(C1=CC=C(C=C1)OCOC1=CC=CC=C1)=O)=O | C16H14O5
